US04415570
Dicyandiamide (8.4 grams) and piperidine hydrochloride (12.1 grams) were heated at 145° to 150° C. for four hours in 20 milliliters of methylcellosolve. After cooled, the reaction solution was mixed with 6.8 grams of sodium ethoxide and 30 milliliters of methylcellosolve, then heated to reflux for four hours with 15 grams of methyl o-chlorobenzoate, cooled, diluted with 200 milliliters of water, the crystals separated out therefrom were collected by filtration, and washed with methanol to give 6.3 grams of 2-amino-4-piperidino-6-(2-chlorophenyl)-s-triazine, melting point 184° to 186° C.

reactant | Dicyandiamide | 8.4 grams | C(#N)N=C(N)N | C2H4N4
reactant | piperidine hydrochloride | 12.1 grams | Cl.N1CCCCC1
reactant | sodium ethoxide | 6.8 grams | [O-]CC.[Na+]
reactant | methyl o-chlorobenzoate | 15 grams | ClC1=C(C(=O)OC)C=CC=C1 | C8H7ClO2
solvent | methylcellosolve | 20 milliliters | COCCO | C3H8O2
solvent | water | 200 milliliters | O | H2O
solvent | methylcellosolve | 30 milliliters | COCCO | C3H8O2
product | 2-amino-4-piperidino-6-(2-chlorophenyl)-s-triazine | 6.3 grams | NC1=NC(=NC(=N1)N1CCCCC1)C1=C(C=CC=C1)Cl | C14H16ClN5
